* Internal chopper-stabilized OTA on the stable diode-load CMFB platform.
* Input modulation before the pair; demodulation between stage 1 and 2.
* Stage 2, CMFB loops and capacitive feedback stay continuous-time.
.subckt eeg_fd_ota_chopped_dl INP INN VCM_REF VBN OUTP OUTN PHII NPHII PHIBI NPHIBI PHIM NPHIM PHIBM NPHIBM VDD18 VSS params: W91=0.5 L91=1 W92=1.19 L92=4 RTAP=278k CC=10p RZ=20k
XCHIN INP INN INP_M INN_M PHII NPHII PHIBI NPHIBI VDD18 VSS eeg_cmos_chopper_lowq
XSTG1 INP_M INN_M VBP1 VBN N1P N1N VCM1 VDD18 VSS eeg_fd_ota_core_highgain
RTAP1 VCM1 VCM_REF {RTAP}
XCM1 VCM1 VCM_REF VBN VBP1 VDD18 VSS eeg_cmfb_amp_dl W9={W91} L9={L91}
XCHMID N1P N1N N2P N2N PHIM NPHIM PHIBM NPHIBM VDD18 VSS eeg_cmos_chopper_lowq
XM21 OUTP N2P VSS VSS sky130_fd_pr__nfet_01v8 L=12 W=12 nf=2
XM22 OUTN N2N VSS VSS sky130_fd_pr__nfet_01v8 L=12 W=12 nf=2
XM23 OUTP VBP2 VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=12 W=48 nf=8
XM24 OUTN VBP2 VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=12 W=48 nf=8
RCMO1 OUTP VCM2 5Meg
RCMO2 OUTN VCM2 5Meg
RTAP2 VCM2 VCM_REF {RTAP}
XCM2 VCM2 VCM_REF VBN VBP2 VDD18 VSS eeg_cmfb_amp_dl W9={W92} L9={L92}
RZP N2P NZP {RZ}
CCP NZP OUTP {CC}
RZN N2N NZN {RZ}
CCN NZN OUTN {CC}
.ends
